US07157447B2
N-(2-(2-Oxoazetidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
The title compound can be prepared from intermediate 27, 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid and 1-(2-(aminomethyl)phenyl)azetidin-2-one, derived from reduction of intermediate 115, 2-(2-oxoazetidin-1-yl)benzonitrile. 1H NMR (400 MHz, CDCl3) δ ppm: 8.67 (1H, brt, J=6.3 Hz), 7.60 (1H, dd, J=1.3, 7.6 Hz), 7.53–7.50 (1H, dd, m), 7.34–7.24 (5H, m), 7.18 (1H, ddd(dt), J=1.2, 7.4 Hz), 7.10 (1H, dd, J=1.2, 8.0 Hz), 5.27 (2H, s), 4.60 (2H, d, J=6.3 Hz), 4.01–3.95 (4H, m), 3.71 (2H, t, J=4.5 Hz), 3.10 (2H, t, J=4.5 Hz), 1.60 (6H, s); LCMS (+ESI, M+H+) m/z 489.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido-[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | 1-(2-(aminomethyl)phenyl)azetidin-2-one | NCC1=C(C=CC=C1)N1C(CC1)=O | C10H12N2O
product | N-(2-(2-Oxoazetidin-1-yl)benzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | O=C1N(CC1)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC=C1 | C27H28N4O5
